* c:\users\sabarishmohan\esim-workspace\54f64_test\54f64_test.cir

.include 54f64.sub
x1 net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u2-pad1_ net-_u4-pad10_ net-_u4-pad9_ net-_u4-pad8_ net-_u4-pad7_ net-_u4-pad6_ 54f64
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ adc_bridge_5
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ adc_bridge_6
v1 net-_u1-pad1_ gnd  dc 0
v2 net-_u1-pad2_ gnd  dc 5
v3 net-_u1-pad3_ gnd  dc 0
v4 net-_u1-pad4_ gnd  dc 0
v5 net-_u1-pad5_ gnd  dc 0
v6 net-_u1-pad6_ gnd  dc 5
v7 net-_u4-pad5_ gnd  dc 5
v8 net-_u4-pad4_ gnd  dc 5
v9 net-_u4-pad3_ gnd  dc 5
v10 net-_u4-pad2_ gnd  dc 5
v11 net-_u4-pad1_ gnd  dc 0
* u2  net-_u2-pad1_ out dac_bridge_1
r1  out gnd 1k
* u3  out plot_v1
a1 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ ] [net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ ] u4
a2 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
a3 [net-_u2-pad1_ ] [out ] u2
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
.endc
.end
