* c:\users\sabarishmohan\esim-workspace\dm74ls51_test\dm74ls51_test.cir

.include dm74ls51.sub
x1 net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ net-_u6-pad9_ net-_u6-pad10_ net-_u8-pad2_ net-_u8-pad1_ net-_u10-pad10_ net-_u10-pad9_ net-_u10-pad8_ net-_u10-pad7_ net-_u10-pad6_ dm74ls51
* u6  a1 a2 b2 c2 d2 net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ net-_u6-pad9_ net-_u6-pad10_ adc_bridge_5
* u10  c1 b1 f1 e1 d1 net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ adc_bridge_5
* u8  net-_u8-pad1_ net-_u8-pad2_ y1 y2 dac_bridge_2
v2  a2 gnd pulse(5 0 0 0 0 5 10)
v3  b2 gnd pulse(5 0 0 0 0 5 10)
v4  c2 gnd pulse(0 5 0 0 0 5 10)
v5  d2 gnd pulse(0 5 0 0 0 5 10)
v1  a1 gnd pulse(0 5 0 0 0 5 10)
v7  e1 gnd pulse(5 0 0 0 0 5 10)
v8  f1 gnd pulse(5 0 0 0 0 5 10)
v9  b1 gnd pulse(0 5 0 0 0 5 10)
v10  c1 gnd pulse(0 5 0 0 0 5 10)
v6  d1 gnd pulse(5 0 0 0 0 5 10)
* u1  a1 plot_v1
* u2  a2 plot_v1
* u3  b2 plot_v1
* u4  c2 plot_v1
* u5  d2 plot_v1
* u11  d1 plot_v1
* u12  e1 plot_v1
* u13  f1 plot_v1
* u14  b1 plot_v1
* u15  c1 plot_v1
* u9  y1 plot_v1
* u7  y2 plot_v1
a1 [a1 a2 b2 c2 d2 ] [net-_u6-pad6_ net-_u6-pad7_ net-_u6-pad8_ net-_u6-pad9_ net-_u6-pad10_ ] u6
a2 [c1 b1 f1 e1 d1 ] [net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ ] u10
a3 [net-_u8-pad1_ net-_u8-pad2_ ] [y1 y2 ] u8
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a1)
plot v(a2)
plot v(b2)
plot v(c2)
plot v(d2)
plot v(d1)
plot v(e1)
plot v(f1)
plot v(b1)
plot v(c1)
plot v(y1)
plot v(y2)
.endc
.end
